US06521643B1
To a suspension of 3-(4-methoxypyridin-2-yl)aniline (130 mg), N,N′-bis(tert-butoxycarbonyl)thiourea (216 mg) and diisopropylethyl-amine (0.26 ml) in dichloromethane (6.5 ml) was added 1-methyl-2-chloropyridinium iodide (216 mg), and the mixture was stirred for 2 hours. The mixture was diluted with dichloromethane, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 25 g, n-hexane:ethyl acetate=4:1) to give N,N′-bis (tert-butoxycarbonyl) -N″- (3- (4-methoxypyridin-2-yl) phenyl) guanidine (240 mg).

reactant | 3-(4-methoxypyridin-2-yl)aniline | 130 mg | COC1=CC(=NC=C1)C=1C=C(N)C=CC1 | C12H12N2O
reactant | N,N′-bis(tert-butoxycarbonyl)thiourea | 216 mg | C(C)(C)(C)OC(=O)NC(=S)NC(=O)OC(C)(C)C | C11H20N2O4S
reactant | diisopropylethyl-amine | 0.26 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-chloropyridinium iodide | 216 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | dichloromethane | 6.5 ml | ClCCl | CH2Cl2
product | N,N′-bis (tert-butoxycarbonyl) -N″- (3- (4-methoxypyridin-2-yl) phenyl) guanidine | 240 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC(=C1)OC)NC(=O)OC(C)(C)C | C23H30N4O5
